US04640703
17.5 g (0.05 mole) of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid N-cyanamide are dissolved in 60 ml of methylethyl ketone and with 7.6 g (0.055 mole) of potassium carbonate heated for 30 minutes to reflux. Then 3.6 ml (0.057 mole) of methyl iodide are added at 30° C. to the colourless suspension and the mixture is stirred for two hours at the same temperature. The reaction mixture is then filtered and the filtrate is concentrated by evaporation. The oily residue is chromatographed through silica gel eluted with petroleum ether/ethyl acetate (3:1) and the main fraction is concentrated by evaporation, affording 10.9 g (59.9% of theory) of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid N-cyano-N-methylamide as a clear, colourless oil with a refractive index of nD23 =1.5228.

reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid N-cyanamide | 0.05 mole, 17.5 g | C(#N)NC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C17H13F3N2O3
reactant | potassium carbonate | 0.055 mole, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.057 mole, 3.6 ml | CI | CH3I
solvent | methylethyl ketone | 60 ml | CC(=O)CC | C4H8O
product | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid N-cyano-N-methylamide | 10.9 g, 59.9% | C(#N)N(C(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O)C | C18H15F3N2O3
